US08378104B2
Step B: 4-[1-(azetidin-3-yl)-1H-pyrazol-4-yl]-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-7-amine (Title Compound)
A solution of tert-butyl 3-{4-[7-amino-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}azetidine-1-carboxylate in DCM (10 mL) was treated with HCl (4 M in 1,4-dioxane, 2.57 mL, 10.3 mmol) and stirred at RT for 16 h. The reaction was then concentrated in vacuo to a solid which was purified by MDP to afford 1.3 mg (1%) of the title compound. 1H NMR (400 MHz, CD3OD) δ 9.77 (br. s, 1H), 8.93 (d, J=6.32 Hz, 1H), 8.70 (d, J=7.33 Hz, 2H), 8.59 (d, J=8.34 Hz, 1H), 8.41 (s, 1H), 8.21 (s, 1H), 8.11 (t, J=7.96 Hz, 1H), 7.91 (d, J=4.29 Hz, 2H), 5.58 (s, 1H), 4.63 (dd, 4H); MS (ESI): 383.15 [M+H]+; HPLC tR=0.72 min (TOF: polar—3 min).

reactant | tert-butyl 3-{4-[7-amino-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}azetidine-1-carboxylate | NC=1N=CC(=C2C1OC(=C2)C2=C1C=CN=CC1=CC=C2)C=2C=NN(C2)C2CN(C2)C(=O)OC(C)(C)C | C27H26N6O3
reactant | HCl | 10.3 mmol, 4 M, 2.57 mL | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-[1-(azetidin-3-yl)-1H-pyrazol-4-yl]-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-7-amine | 1.3 mg, 1% | N1CC(C1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)C2=C1C=CN=CC1=CC=C2 | C22H18N6O
